US04791103
A reaction mixture of 1.4 g of 6-chloropurine riboside, 1.6 g of [1H-inden-3-yl]methylamine as prepared in Example E hereinafter and 1.5 g of triethylamine in 150 ml ethanol is refluxed for 24 hours. Volatiles are evaporated under reduced pressure and residue is purified on Prep-500A using one prepacked silica gel column and 10% methanoldichloromethane as an eluant at a rate of 150 ml/min. Evaporation of solvent from pure fractions affords 0.43 g (22%) of N6 -[1H-inden-3-yl]methyl adenosine having a melting point of 200°-202° C. Anals. calcd. for C20H21N5O4.0.3 CH3OH; Found: C=60.20; H=5.53; N=17.29; C=60.49; H=5.44; N=17.25.

reactant | 6-chloropurine riboside | 1.4 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | [1H-inden-3-yl]methylamine | 1.6 g | C1C=C(C2=CC=CC=C12)CN | C10H11N
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N6 -[1H-inden-3-yl]methyl adenosine | 0.43 g, 22% | C1C=C(C2=CC=CC=C12)CNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C20H21N5O4
